US06770778B2
3,4-difluoro-2-[2-fluoro-4-(methoxycarbonyl)anilino]benzoic acid (320 mg, 0.99 mmol) was dissolved in MeOH (50 mL) to which was added 2-(aminooxy)ethanol followed by 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methymorpholinium chloride [DMT-MM, prepared according to the procedure of Kunishima et al [Tetrahedron, 55, 13159-13170 (1999)]] (326 mg, 1.18 mmol), This mixture was stirred 15 h. at room temperature. The MeOH was removed under reduced pressure and the resulting oil dissolved in EtOAc (100 mL), which was washed with water (2×100 mL), brine (100 mL) and dried (Na2SO4). The solvent was removed under reduced pressure to afford a crude yellow oil which was purified by filtration through a plug of silica gel (100% EtOAc as eluant) to give methyl 4-(2,3-difluoro-6-{[(2-hydroxyethoxy)amino]carbonyl} anilino)-3-fluorobenzoate as a cream solid (79%); m.p. (EtOAc/hexane) 162-165° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.82 (v br s, 1 H), 9.08 (v br s, 1 H), 7.70-7.62 (m, 2 H), 7.49-7.43 (m, 1 H), 7.38-7.29 (m, 1 H), 6.81 (ddd, J=8.6, 8.6, 4.7 Hz, 1 H), 4.76 (v br s, 1 H), 3.83-3.78 (m, 5 H), 3.53 (t, J=4.8 Hz, 2 H). Anal. calcd. for C17H15F3N2O5: C, 53.1; H, 3.9; N, 7.3. Found C, 53.3; H, 4.2; N, 7.3.

reactant | 3,4-difluoro-2-[2-fluoro-4-(methoxycarbonyl)anilino]benzoic acid | 0.99 mmol, 320 mg | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C(=O)OC)F | C15H10F3NO4
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methymorpholinium chloride | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | MeOH | 50 mL | CO | CH4O
product | methyl 4-(2,3-difluoro-6-{[(2-hydroxyethoxy)amino]carbonyl} anilino)-3-fluorobenzoate | 79% | FC1=C(NC2=C(C=C(C(=O)OC)C=C2)F)C(=CC=C1F)C(=O)NOCCO | C17H15F3N2O5
